US07807709B2
a. 1-(3-Methoxy-propyl)-1H-indole-6-carboxylic acid methyl ester
To a solution of methyl indole-6-carboxylate (5.0 g, 28.5 mmol) in DMF (25 mL) is added under nitrogen, NaH-60% dispersion in oil (1.25 g, 31.3 mmol), the mixture is heated at 60° C. for 2 h, cooled to RT and 1-bromo-3-methoxypropane (8.7 g, 57.0 mmol) is added. The mixture is further stirred at 60° C. overnight. The crude mixture is poured into an aqueous solution of NH4Cl and diluted with CH2Cl2. The layers are separated and the aqueous one extracted twice with CH2Cl2. The combined organic extracts are washed with water, dried over Na2SO4, filtered and concentrated to give the title product. MS (LC-MS): 248.0 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 5.69 min.

reactant | methyl indole-6-carboxylate | 28.5 mmol, 5.0 g | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | NaH | [H-].[Na+]
reactant | 1-bromo-3-methoxypropane | 57.0 mmol, 8.7 g | BrCCCOC | C4H9BrO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(3-Methoxy-propyl)-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=CN(C2=C1)CCCOC | C14H17NO3
